US06562811B1
To a suspension of NaH (60%, 0.056 g, 1.39 mmol) in TBF (3 mL) was added a solution of t-butyl cyanoacetate (0.197 g, 1.392 mmol) in THF (1 mL) in one portion. After 10 min, a solution of 1-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)-oxy]phenyl}-3,3-bis(methylsulfanyl)-2-propene-1-one (0.500 g, 1.16 mmol) in THF (3 mL) was added followed by dibenzo-18-crown-6 (0.013 g, 0.035 mmol). The resulting mixture was refluxed for 4 hrs. After cooled to room temperature, the mixture was partitioned between 0.1 N acetic acid solution and CH2Cl2. The organic phase was separated, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residual oil was dissolved in 1,2-dichloroethane (1 mL) and acetic acid (1 mL), and ammonium acetate (1.20 g, 15.57 mmol) was added. The mixture was stirred at 120° C. for 0.5 hrs. After cooled to room temperature, the mixture was partitioned between ethyl acetate and saturated aqueous NaHCO3 solution. The organic phase was washed with saturated aqueous NaHCO3 solution and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. Purification by column chromatography on silica gel (hexane/ethyl acetate 4:1 to 3:1) gave tert-butyl 2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-4-(methyl-sulfanyl)nicotinate as an pale yellow oil (0.177 g, yield; 29%).

reactant | NaH | 1.39 mmol, 0.056 g | [H-].[Na+]
reactant | t-butyl cyanoacetate | 1.392 mmol, 0.197 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | 1-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)-oxy]phenyl}-3,3-bis(methylsulfanyl)-2-propene-1-one | 1.16 mmol, 0.500 g | C1(CC1)COC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C(C=C(SC)SC)=O | C23H26O4S2
reactant | dibenzo-18-crown-6 | 0.035 mmol, 0.013 g | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
reactant | ammonium acetate | 15.57 mmol, 1.20 g | C(C)(=O)[O-].[NH4+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | tert-butyl 2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-4-(methyl-sulfanyl)nicotinate | 0.177 g, yield; 29% | NC1=C(C(=O)OC(C)(C)C)C(=CC(=N1)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OCC1CC1)SC | C29H34N2O5S
